US06329547B1
A solution of diethyl ethoxycarbonylmethylphosphonate (3.3 g) in anhydrous tetrahydrofuran (20 ml) is added dropwise to a suspension of sodium hydride (60%, oily) (676 mg) in anhydrous tetrahydrofuran (30 ml) under a nitrogen atmosphere and ice cooling, and further a solution of ethyl 4-tolylglyoxylate (2.96 g) in anhydrous tetrahydrofuran (22 ml) is added dropwise thereto. The mixture is stirred at room temperature for 30 minutes, a 10% aqueous citric acid solution is added to the reaction mixture, and the whole is extracted with ether. The organic layer is washed with water and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography to give 3.57 g (88%) of diethyl 2-(4-tolyl)maleate.

reactant | diethyl ethoxycarbonylmethylphosphonate | 3.3 g | C(C)OC(=O)CP(OCC)(OCC)=O | C8H17O5P
reactant | sodium hydride | 676 mg | [H-].[Na+]
reactant | ethyl 4-tolylglyoxylate | 2.96 g | C1(=CC=C(C=C1)C(C(=O)OCC)=O)C | C11H12O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | diethyl 2-(4-tolyl)maleate | 3.57 g, 88% | C1(=CC=C(C=C1)/C(/C(=O)OCC)=C/C(=O)OCC)C | C15H18O4
